US05334724
2,6-Dichloro-3-methyl-pyridine
101.5 g (0.50 mol) of o-phthaloyl chloride in 50 ml of chlorobenzene are added dropwise under nitrogen to a solution of 35.9 g (0.25 mol) of 2-chloro-5-methylpyridine-1-oxide and 50.6 g (0.50 mol) of triethylamine in 200 ml of chlorobenzene in the course of 30 min. The mixture is subsequently heated under reflux for a further 12 hours, then the precipitate is filtered off with suction, the filter cake is washed with 50 ml of methylene chloride and the solvent is removed by distillation. The bottom is subjected to steam distillation, the pH of 6 being maintained by continuously adding 45 per cent sodium hydroxide solution. The distillate is extracted three times using 100 ml of methylene chloride each time, the solvent is removed by distillation and the residue is recrystallized from hexane.

reactant | 2-chloro-5-methylpyridine-1-oxide | 0.25 mol, 35.9 g | ClC1=[N+](C=C(C=C1)C)[O-] | C6H6ClNO
reactant | triethylamine | 0.50 mol, 50.6 g | C(C)N(CC)CC | C6H15N
reactant | chlorobenzene | 50 ml | ClC1=CC=CC=C1 | C6H5Cl
reactant | chlorobenzene | 200 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 2,6-Dichloro-3-methyl-pyridine | ClC1=NC(=CC=C1C)Cl | C6H5Cl2N
